US06333414B1
Preparation of 2-phenyl-4-(tert-butyl)-5-ethyloxazole
0.31 g of 1-ethyl-3,3-dimethyl-2-oxobutyl benzoate is dissolved in 8 ml of dimethylformamide in a reactor. 0.75 g of thiourea (5 eq.) is subsequently added and the reaction mixture is left to react at reflux (160° C.) for 6 hours. The reaction mixture is extracted with dichloromethane and then washed 3 times with water, dried over anhydrous sodium sulphate, filtered and finally brought to dryness under vacuum.

reactant | 1-ethyl-3,3-dimethyl-2-oxobutyl benzoate | 0.31 g | C(C1=CC=CC=C1)(=O)OC(C(C(C)(C)C)=O)CC | C15H20O3
reactant | thiourea | 0.75 g, 5 eq. | NC(=S)N | CH4N2S
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-phenyl-4-(tert-butyl)-5-ethyloxazole | C1(=CC=CC=C1)C=1OC(=C(N1)C(C)(C)C)CC | C15H19NO
